US04013473
840 g of cyclopentene are added dropwise to 648 g of p-cresol and 60 g of an acid-activated fuller's earth at 140° C. Next the mixture is stirred at 140° C for 15 h. After having removed the catalyst by filtration the mixture is fractionated. In the boiling range of 153°-156° C 540 g of 2,6-dicyclopentyl-4-methylphenol are obtained (0.8 mm Hg) and between 167°-170° C 422 g of a fraction (0.8 mm Hg) which is recrystallised from petroleum ether. Yield: 360 g of 2,5-dicyclopentyl-4-methylphenol. Melting point: 78° C.

reactant | cyclopentene | 840 g | C1=CCCC1 | C5H8
reactant | p-cresol | 648 g | C1=CC(=CC=C1O)C | C7H8O
product | 2,6-dicyclopentyl-4-methylphenol | 540 g | C1(CCCC1)C1=C(C(=CC(=C1)C)C1CCCC1)O | C17H24O
